US07700628B2
B. Methyl 2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoate
The methyl 4-fluoro-2-(1-methylpiperidin-4-yloxy)benzoate (10.6 g, 40 mmol) was mixed with pyrrolidine (14 g, 200 mmol) and heated at 70° C. for 3 hours, then heated at 100° C. for 1 hour before concentrating under vacuum. The residue was partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (100 mL). The aqueous layer was saturated with NaCl and extracted with EtOAc (100 mL). The combined organic layer was dried over MgSO4 and concentrated to 12.5 g of an oil which was purified by flash chromatography, using THF/Hex/Et3 N 20/75/5 then 40/55/5 and finally 60/35/5, to give 11.9 g (37 mmol, 93%) of the desired product as an oil.

reactant | methyl 4-fluoro-2-(1-methylpiperidin-4-yloxy)benzoate | 40 mmol, 10.6 g | FC1=CC(=C(C(=O)OC)C=C1)OC1CCN(CC1)C | C14H18FNO3
reactant | pyrrolidine | 200 mmol, 14 g | N1CCCC1 | C4H9N
product | Methyl 2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoate | 37 mmol, 11.9 g, 93% | CN1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)N1CCCC1 | C18H26N2O3
